US05767131
8-(3-Aminopropyl) -1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one
1-Phenyl-1,3,8-triazaspiro[4.5]decan-4-one (5.00 g, 21.6 mol, 1.00 equiv), 3-bromopropylamine hydrobromide (4.73 g, 21.6 mmol, 1.00 equiv) and potassium carbonate (2.99 g, 21.6 mmol, 1.00 equiv) were stirred in refluxing dioxane (70 mL) for 24 hours. After removal of the solvent, water (50 mL) was added and the pH was adjusted to 11-12 by addition of 1N aqueous NaOH. The mixture was extracted with CH2Cl2 (200 mL+3×100 mL). The combined organic solutions were dried over MgSO4 and concentrated. The residue was purified by flash chromatography (SiO2, CHCl3 -MeOH-NH3 (2M in MeOH) 100:20:10 to 100:24:12) to give 250 mg (4%) of white solid, which was characterized spectroscopically.

reactant | 1-Phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 21.6 mol, 5.00 g, 1.00 equiv | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | 3-bromopropylamine hydrobromide | 21.6 mmol, 4.73 g, 1.00 equiv | Br.BrCCCN
reactant | potassium carbonate | 21.6 mmol, 2.99 g, 1.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
product | 8-(3-Aminopropyl) -1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 250 mg, 4% | NCCCN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C16H24N4O
